US08084621B2
Synthesis of N-(3-(diethylamino)propyl)-2-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxamide (II-9)
Similar procedure as Example 2, 2-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylic acid (S4) 0.2 g (1.0 mmol) and N1,N1-diethylpropane-1,3-diamine 0.27 g (2.1 mmol) was reacted to give 0.26 g (85%) of the titled compound as a white solid.

reactant | 2-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylic acid | 1.0 mmol, 0.2 g | CC=1NC=2C(CCCC2C1C(=O)O)=O | C10H11NO3
reactant | N1,N1-diethylpropane-1,3-diamine | 2.1 mmol, 0.27 g | C(C)N(CCCN)CC | C7H18N2
product | N-(3-(diethylamino)propyl)-2-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxamide | 0.26 g, 85% | C(C)N(CCCNC(=O)C1=C(NC=2C(CCCC12)=O)C)CC | C17H27N3O2
